US05091419
To a solution of 1.5 g N,N'-diheptyl-p-xylylenediamine in 20 ml n-hexane, was added dropwise with stirring 5 ml of a n-hexane solution containing 1.4 g 2,4-difluorophenyl isocyanate under ice cooling. Stirring was continued at room temperature for two hours, and the solid which separated out was collected by filtration and recrystallized from methanol, giving 2.3 g of 1,4-bis[[1-heptyl-3-(2,4-difluorophenyl)ureido]methyl]benzene.

reactant | N,N'-diheptyl-p-xylylenediamine | 1.5 g | C(CCCCCC)NCC1=CC=C(C=C1)CNCCCCCCC | C22H40N2
reactant | 2,4-difluorophenyl isocyanate | 1.4 g | FC1=C(C=CC(=C1)F)N=C=O | C7H3F2NO
solvent | n-hexane | 20 ml | CCCCCC | C6H14
solvent | n-hexane | 5 ml | CCCCCC | C6H14
product | 1,4-bis[[1-heptyl-3-(2,4-difluorophenyl)ureido]methyl]benzene | 2.3 g | C(CCCCCC)N(C(=O)NC1=C(C=C(C=C1)F)F)CC1=CC=C(C=C1)CN(C(=O)NC1=C(C=C(C=C1)F)F)CCCCCCC | C36H46F4N4O2
